US07846959B2
To a mixture of 2-(4-amino-3-nitrobenzoyl)benzoic acid (50 g, 175 mmol) and potassium carbonate (50 g, 350 mmol) in N,N-dimethylformamide (200 ml), was added benzyl bromide (22.8 ml, 192 mmol). The mixture was stirred at 60° C. for 16 hours, and then partitioned between ethyl acetate (500 mL) and water. The organic portion was washed with 0.2N sodium hydroxide, water, brine, dried over sodium sulfate, filtered and concentrated in-vacuo. The resultant residue was re-crystallized from chloroform and hexanes (1:1) to afford benzyl 2-(4-amino-3-nitrobenzoyl)benzoate (53 g, 81%) as a yellow solid. 1H NMR (400 MHz, d6-DMSO): 8.11 (br s, 1H), 8.06-8.01 (m, 2H), 7.79-7.75 (m, 1H), 7.72-7.65 (m, 2H), 7.46 (d, 1H), 7.28-7.19 (m, 5H), 7.02 (d, 1H), 5.12 (s, 2H); MS (EI) for C21H16N2O5: 377 (MH+)

reactant | 2-(4-amino-3-nitrobenzoyl)benzoic acid | 175 mmol, 50 g | NC1=C(C=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=C1)[N+](=O)[O-] | C14H10N2O5
reactant | potassium carbonate | 350 mmol, 50 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 192 mmol, 22.8 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | benzyl 2-(4-amino-3-nitrobenzoyl)benzoate | 53 g, 81% | NC1=C(C=C(C(=O)C2=C(C(=O)OCC3=CC=CC=C3)C=CC=C2)C=C1)[N+](=O)[O-] | C21H16N2O5
